US07915415B2
Preparation of 2-(2,4-dimethyl-1H-imidazol-1-yl)benzonitrile 6
Sodium hydride (8.65 grams 60%, 0.216 mol) was stirred in 75 mL of anhydrous dimethylformamide. To this was added dropwise a solution of 2,4-dimethylimidazole (20.75 grams, 0.216 mol) in 100 mL of DMF. After stirring at ambient temperature for 1 hour a solution of 2-fluorobenzonitrile (23.0 mL, 0.216 mol) in 75 mL of DMF was added dropwise. This was stirred at 50° C. for 2 hours and then at ambient temperature for 16 hours. The mixture was then poured into water and the product extracted with ethyl acetate. The organic layer washed with water and dried over sodium sulfate. The crude product was chromatographed (silica gel) and eluted with 19:1 dichloromethane-methanol then 9:1 dichloromethane-methanol to afford the product as a solid. LCMS data confirmed structure.

reactant | Sodium hydride | 0.216 mol, 8.65 grams | [H-].[Na+]
reactant | 2,4-dimethylimidazole | 0.216 mol, 20.75 grams | CC=1NC=C(N1)C | C5H8N2
reactant | 2-fluorobenzonitrile | 0.216 mol, 23.0 mL | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | water | O | H2O
solvent | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 2-(2,4-dimethyl-1H-imidazol-1-yl)benzonitrile | CC=1N(C=C(N1)C)C1=C(C#N)C=CC=C1 | C12H11N3
